US06992087B2
Preparation of 3,6-diethyl-N-(4,5,6,7-tetrahydro-1-benzofuran-4-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 4,5,6,7-tetrahydro-1-benzofuran-4-amine and making non-critical variations provided the title compound as a oil:

reactant | (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C17H21N3O
reactant | 4,5,6,7-tetrahydro-1-benzofuran-4-amine | O1C=CC2=C1CCCC2N | C8H11NO
product | 3,6-diethyl-N-(4,5,6,7-tetrahydro-1-benzofuran-4-yl)pyrazin-2-amine | C(C)C=1C(=NC(=CN1)CC)NC1CCCC2=C1C=CO2 | C16H21N3O
